US04374979
Dimethyl 3-nitrophthalate (4.8 g, 20 mmol) was added to a cold solution of sodium methoxide (2.61 g, 48.3 mmol) in dry hexamethylphosphoric triamide (75 ml). The resulting dark solution was gradually brought to room temperature and the reaction mixture was stirred for 44 hrs. It was then diluted with water (125 ml) and extracted with benzene. (This extract contained a variable quantity of dimethyl 3-methoxyphthalate. The aqueous layer was acidified with hydrochloric acid and extracted with benzene. The combined organic layers were washed with water (5×30 ml) and then brine (1×15 ml), dried over sodium sulfate, filtered and evaporated to give 3.25 g (75%) of 2-carbomethoxy-3-methoxybenzoic acid, mp 140°-141° C. (benzene). Identity was confirmed by mixture mp, co-chromatography and spectroscopic comparison with an authentic sample. 1H NMR (CDCl3) δ 3.86 (3H, s, ArCO2CH3), 3.93 (3H, s, ArOCH3), 7.13 (1H, dd, J=8,2 Hz, ArH4), 7.43 (1H, t, J=8 Hz, ArH5), 7.68 (1H, dd, J=8,2 Hz, ArH6, 10.50 (1H, broad s, ArCO2H); IR (KBr) 3200 (br), 2960, 1740, 1690, 1585, 1475, 1310, 1050 cm-1 , etc.; mass spectrum m/e (rel. intensity) 211 (m+ +1,5%), 210 M+, 30%), 193 (M+ -OH, 2%), 180 (M+ -2CH3, 100%), 179 (M+ -OCH3, 10%), etc.

reactant | Dimethyl 3-nitrophthalate | 20 mmol, 4.8 g | [N+](=O)([O-])C1=C(C(C(=O)OC)=CC=C1)C(=O)OC | C10H9NO6
reactant | sodium methoxide | 48.3 mmol, 2.61 g | C[O-].[Na+]
solvent | hexamethylphosphoric triamide | 75 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | water | 125 ml | O | H2O
product | 2-carbomethoxy-3-methoxybenzoic acid | 3.25 g, 75% | C(=O)(OC)C1=C(C(=O)O)C=CC=C1OC | C10H10O5
